US06884814B2
Step a) 1,3-Dimethoxy-2-methylbenzene.
To a solution of 1,3-dimethoxybenzene (2.00 g, 14.5 mmol) in THF (30 mL) at 0° C. was added n-BuLi (6.40 mL, 15.9 mmol, 2.5 M in hexanes) slowly over a 2 min period. The solution was stirred at 0° C. for 15 min and then at room temperature for 1.5 h. The solution was re-cooled to 0° C., iodomethane (2.70 mL, 43.5 mmol) was added slowly (the solution warmed up) and the solution was stirred at 0° C. for 10 min and then at room temperature for 1.5 h. The reaction was quenched with water, most of the solvent was removed in vacuo, and extraction was done in EtOAc (2×75 mL) with water (50 mL). Flash chromatography with silica gel (gradient to 6% ethyl ether/hexanes) afforded the title compound as a colorless liquid (1.98 g, 90% yield): 1H NMR (300 MHz, CDCl3) δ 2.10 (s, 3H), 3.82 (s, 6H), 6.54 (d, 2H, J=8.3 Hz), 7.12 (t, 1H, J=8.3 Hz).

reactant | 1,3-dimethoxybenzene | 14.5 mmol, 2.00 g | COC1=CC(=CC=C1)OC | C8H10O2
reactant | n-BuLi | 15.9 mmol, 2.5 M, 6.40 mL | [Li]CCCC
reactant | iodomethane | 43.5 mmol, 2.70 mL | IC | CH3I
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1,3-Dimethoxy-2-methylbenzene | 1.98 g, 90% yield | COC1=C(C(=CC=C1)OC)C | C9H12O2
